US06562828B1
N,N′-Di-tert-Butoxycarbonyl-7-(1-acetylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine
To a solution of N,N′-ditert-butoxycarbonyl-7-(piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine (100 mg) in tetrahydrofuran (1.5 ml) were added acetic anhydride (0.021 ml) and pyridine (0.025 ml), and the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the mixture was extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The residue was dried under reduced pressure to give the title compound (100 mg).

reactant | N,N′-ditert-butoxycarbonyl-7-(piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 100 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCNCC1 | C26H40N4O5
reactant | acetic anhydride | 0.021 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.025 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | N,N′-Di-tert-Butoxycarbonyl-7-(1-acetylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 100 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C(C)=O | C28H42N4O6
